US09212182B2
A solution of PdCl2(dppf)-DCM adduct (0.399 g, 0.489 mmol), bis(pinacolato) diboron (2.73 g, 10.76 mmol), 1-bromo-3-(difluoromethyl)-5-fluorobenzene (Oakwood Chemicals, 2.200 g, 9.78 mmol) and potassium acetate (3.84 g, 39.1 mmol) in 35 mL DMF was heated to 100° C. overnight. The reaction mixture was then diluted with DCM and was washed with water. The organics were dried over MgSO4 and concentrated. Purification of the crude residue by silica gel column chromatography (0-70% EtOAc/heptane) gave 2-(3-(difluoromethyl)-5-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.64 g, 6.03 mmol, 61.6% yield) as a yellow oil. 1H NMR (Acetone) □: 7.72-7.78 (m, 1H), 7.44-7.58 (m, 2H), 6.99 (s, 1H), 1.32-1.43 (m, 12H). (ESI) 273.2 (M+H)+.

reactant | bis(pinacolato) diboron | 10.76 mmol, 2.73 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1-bromo-3-(difluoromethyl)-5-fluorobenzene | 9.78 mmol, 2.200 g | BrC1=CC(=CC(=C1)F)C(F)F | C7H4BrF3
reactant | potassium acetate | 39.1 mmol, 3.84 g | C(C)(=O)[O-].[K+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) DCM | 0.489 mmol, 0.399 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(3-(difluoromethyl)-5-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.03 mmol, 1.64 g, 61.6% yield | FC(C=1C=C(C=C(C1)F)B1OC(C(O1)(C)C)(C)C)F | C13H16BF3O2
